US05591762
4'-[[6-(N-Benzenesulphonyl-n-pentylamino)-2-n-butyl-4-methyl-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid
Prepared analogously to Example 1 from tert.butyl 4'-[[6-(N-benzenesulphonyl-n-pentylamino)-2-n-butyl-4-methyl-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.butyl 4'-[[6-(N-benzenesulphonyl-n-pentylamino)-2-n-butyl-4-methyl-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C1(=CC=CC=C1)S(=O)(=O)N(C=1C=C(C2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C)C1)C)CCCCC | C41H49N3O4S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[[6-(N-Benzenesulphonyl-n-pentylamino)-2-n-butyl-4-methyl-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid | C1(=CC=CC=C1)S(=O)(=O)N(C=1C=C(C2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C1)C)CCCCC | C37H41N3O4S
